### PR TITLE
Add week 3 materials

### PR DESCRIPTION
**Pull request by AdrianDoM**
Here's what I've prepared for week 3. This finishes off Chapter 3 of MIL. The workshop is a little shorter, because we have to finish the previous one first. The homework should be fun and challenging.

### CODE REVIEW

File: Formal2024/Workshops/workshop3.lean [hunk 1]
```diff
@@ -0,0 +1,210 @@
...
+
+-- The symbol for conjunction is `∧`, which you can write as `\and`.
+
+-- To prove a conjunction, we use the `constructor` tactic.
+-- This will split the goal into two, one for each part of the conjunction.
+-- (For people familiar with Lean 3: the `split` tactic is gone in Lean 4.)
+
+example (P Q : Prop) (hp : P) (hq : Q) : P ∧ Q := by
+  constructor
+  · exact hp
```
Comment (SimoneCastellan) [inline Formal2024/Workshops/workshop3.lean:21]: We've seen them before, but maybe it's worth saying something about the \. to handle multiple cases?

File: Formal2024/Workshops/workshop3.lean [hunk 2]
```diff
@@ -0,0 +1,210 @@
...
+
+-- Lean knows that `↔` is reflexive, symmetric, and transitive, so you can use the `rw` tactic with it.
+#check abs_lt
+
+example (x : ℝ) : |x + 3| < 5 → -8 < x ∧ x < 2 := by
+  rw [abs_lt]
+  intro h
+  constructor <;> linarith
+-- The `<;>` tactic combinator attempts to close every open goal with the given tactic
+
```
Comment (SimoneCastellan) [inline Formal2024/Workshops/workshop3.lean:90]: Maybe "all the open goals opened by constructor" is more precise? I would also add a remark that "<" is different from the anonymus constructor "\<"

File: Formal2024/Workshops/workshop3.lean [hunk 3]
```diff
@@ -0,0 +1,210 @@
...
+
+-- To use a disjunction, you can use `rcases` or `rintro`, as with existential quantifiers and conjunctions.
+-- The notation is slightly different: you use `|` instead of `⟨⟩`.
+-- When we use a disjunction, we have to prove the goal for each side of the disjunction.
+example {x y : ℝ} : x < |y| → x < y ∨ x < -y := by
+  rcases le_or_gt 0 y with h | h -- `le_or_gt` is a lemma that says `0 ≤ y ∨ y < 0`.
+  · rw [abs_of_nonneg h]
+    intro h; exact Or.inl h
+  . rw [abs_of_neg h]
```
Comment (SimoneCastellan) [inline Formal2024/Workshops/workshop3.lean]: Have we used the semicolon notation before?

File: Formal2024/Workshops/workshop3.lean [hunk 4]
```diff
@@ -0,0 +1,210 @@
...
+example (P : Prop) : ¬¬P → P := by
+  intro h
+  rcases em P with hp | hnp
+  · assumption
+  . contradiction -- This tactic looks for a contradiction in the hypotheses, in this case `h` and `hnp`.
+
+-- You can also do this using the `by_cases` tactic.
+example (P : Prop) : ¬¬P → P := by
+  intro h
+  by_cases h' : P
```
Comment (SimoneCastellan) [inline Formal2024/Workshops/workshop3.lean:165]: Maybe we should explain the syntax of the tactic as it's different from what seen before

File: Formal2024/Workshops/workshop3.lean [hunk 5]
```diff
@@ -0,0 +1,210 @@
...
+-- The proof term version of this is `Or.inl` and `Or.inr`.
+example {x y : ℝ} (h : y > x ^ 2) : y > 0 ∨ y < -1 :=
+  Or.inl (by linarith [pow_two_nonneg x])
+
+
+-- To use a disjunction, you can use `rcases` or `rintro`, as with existential quantifiers and conjunctions.
+-- The notation is slightly different: you use `|` instead of `⟨⟩`.
+-- When we use a disjunction, we have to prove the goal for each side of the disjunction.
+example {x y : ℝ} : x < |y| → x < y ∨ x < -y := by
+  rcases le_or_gt 0 y with h | h -- `le_or_gt` is a lemma that says `0 ≤ y ∨ y < 0`.
```
Comment (SimoneCastellan) [inline Formal2024/Workshops/workshop3.lean]: "Notice that we can call the hypotheses introduced by rcases with the same name, as they will be used in two separate cases"

File: Formal2024/Workshops/workshop3.lean [hunk 6]
```diff
@@ -0,0 +1,210 @@
...
+  exact ⟨h₀, h⟩
+
+
+-- To use a conjunction, you can use `rcases` or `rintro`, as with existential quantifiers.
+example {x y : ℝ} (h : x ≤ y ∧ x ≠ y) : ¬y ≤ x := by
+  rcases h with ⟨h₀, h₁⟩
+  contrapose! h₁
+  exact le_antisymm h₀ h₁
+
+example {x y : ℝ} : x ≤ y ∧ x ≠ y → ¬y ≤ x := by
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop3.lean:46]: Just flagging that this example will be hard for beginner learners to parse! They will need to figure out
a) why rintro ends up producing a goal of `False`
b) why the `exact` tactic make sense applied to these arguments.

Because they will be new to working with negation, these things will not be obvious. I think it's a good example to illustrate these concepts, just wanted to flag that you may want to break it down quite slowly in class with them.

File: Formal2024/Workshops/workshop3.lean [hunk 7]
```diff
@@ -0,0 +1,210 @@
...
+  rintro ⟨h₀, h₁⟩ h'
+  exact h₁ (le_antisymm h₀ h')
+
+-- You can also access the parts of a conjunction `h` with `h.left` and `h.right` (or `h.1` and `h.2`).
+example {x y : ℝ} (h : x ≤ y ∧ x ≠ y) : ¬y ≤ x :=
+  fun h' ↦ h.right (le_antisymm h.left h')
+
+-- You can next anonymous constructors, even if they mix conjunctions and existential quantifiers.
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop3.lean]:
```suggestion
-- You can nest anonymous constructors, even if they mix conjunctions and existential quantifiers.
```

File: Formal2024/Workshops/workshop3.lean [hunk 8]
```diff
@@ -0,0 +1,210 @@
...
+  Or.inl (by linarith [pow_two_nonneg x])
+
+
+-- To use a disjunction, you can use `rcases` or `rintro`, as with existential quantifiers and conjunctions.
+-- The notation is slightly different: you use `|` instead of `⟨⟩`.
+-- When we use a disjunction, we have to prove the goal for each side of the disjunction.
+example {x y : ℝ} : x < |y| → x < y ∨ x < -y := by
+  rcases le_or_gt 0 y with h | h -- `le_or_gt` is a lemma that says `0 ≤ y ∨ y < 0`.
+  · rw [abs_of_nonneg h]
+    intro h; exact Or.inl h
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop3.lean]: I wonder if it's going quite fast to introduce inline proof terms for a concept the students just met - maybe the extra two lines to do it using the familiar pattern would be good reinforcement? Just a suggestion, maybe it's fine as is.

File: Formal2024/Workshops/workshop3.lean [hunk 9]
```diff
@@ -0,0 +1,210 @@
...
+  . rw [abs_of_neg h]
+    intro h; exact Or.inr h
+
+-- You can nest patterns in `rcases` and `rintro`, even mixing `|` and `⟨⟩`.
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop3.lean:140]:
```suggestion
-- You can nest patterns in `rcases` and `rintro`, even mixing `|` and `⟨⟩`.
-- Recall that the vertical bar symbol for divisibility is typed with `\|` but for disjunction or absolute value it is just `|`.
```

File: Formal2024/Homeworks/homework3.lean [hunk 10]
```diff
@@ -0,0 +1,139 @@
+/-
+# Homework 2: Sequences and convergence
```
Comment (PatrickKinnear) [inline Formal2024/Homeworks/homework3.lean]:
```suggestion
# Homework 3: Sequences and convergence
```

File: Formal2024/Homeworks/homework3.lean [hunk 11]
```diff
@@ -0,0 +1,139 @@
...
+  ext x y -- The names of the variables are optional
+  ring
+
+-- Another useful tactic is be `congr`. If the goal is an equality of the form `f x = f y`, it will
+-- change the goal to `x = y`.
+example (a b : ℝ) : |a| = |a - b + b| := by
+  congr
+  ring
+
+-- Lastly, the `convert` tactic let's us mix some forward and backwards reasoning. It is similar to the
```
Comment (PatrickKinnear) [inline Formal2024/Homeworks/homework3.lean]:
```suggestion
-- Lastly, the `convert` tactic lets us mix some forward and backwards reasoning. It is similar to the
```

Comment (SimoneCastellan) [inline Formal2024/Homeworks/homework3.lean]:
```suggestion
-- Lastly, the `convert` tactic lets us mix some forward and backwards reasoning. It is similar to the
```

File: Formal2024/Homeworks/homework3.lean
Comment (PatrickKinnear) [inline Formal2024/Homeworks/homework3.lean:1]: Overall I'd just comment that the homework introduces several new tactics, and I'd be cautious about how much we use homework to introduce new material rather than reinforce and practice material that's been seen in class.

It also seems to get to the point where it could be useful to start telling them about some type theory soon :)

File: Formal2024/Workshops/workshop3.lean
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop3.lean:1]: This looks good to me, though I think in conjunction with the stuff we didn't cover last time there will be a lot of material this week too! As before if we don't cover it all I think that's ok.

File: Formal2024/Workshops/workshop3.lean (hunk 1 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop3.lean:21]: I'll mention it during the demo, but since we've already explained it in a previous file I think it's fine a s is.

File: Formal2024/Homeworks/homework3.lean
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework3.lean:1]: Yeah, that's fair. Though if we start on time tomorrow, and since we don't have an ssfm, I am optimistic that we can get through it.

File: Formal2024/Workshops/workshop3.lean
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop3.lean:1]: Yeah, that's fair. Though if we start on time tomorrow, and since we don't have an ssfm, I am optimistic that we can get through it.

File: Formal2024/Workshops/workshop3.lean (hunk 8 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop3.lean]: Good point! I'll separate it into a have and say during the demo how it can be simplified once you feel more comfortable with proof terms.

File: Formal2024/Workshops/workshop3.lean (hunk 3 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop3.lean]: I'll add a comment about it.

File: Formal2024/Homeworks/homework3.lean
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework3.lean:1]: That's fair. These tactics are a bit niche though, and I don't know of when would be a good time to introduce them in a session. A lot of the exercises in the homework are guided (you just need to fill in some sorries), so they might give a good feel of these tactics can be used in practice.

It also reinforces the material in class, since you have to constantly deal with foralls, there exists and or's (because of the absolute value).

Comment (AdrianDoM) [reply Formal2024/Homeworks/homework3.lean:1]: I agree that the next session after this one would be a good time to talk a bit more about types.

Comment (SimoneCastellan) [reply Formal2024/Homeworks/homework3.lean:1]: I agree with Adrian that the new tactics are not that deep to need an introduction in the lectures.
What we should do though is add a list of the mathlib theorems needed in the proofs. I think that we should keep doing that as good practice until we cover mathlib. Then the students should be able to look them up on their own.
